* ============================================================================
* 808 Tom (Lo-Tom / "808 Tom") — Bridged-T Resonator (Behavioral State-Space)
* PedalKernel SPICE Golden Reference
*
* TOPOLOGY NOTE: Single bridged-T Sallen-Key resonator + inverting output
* buffer (U2: Ri_out=10k / Rf_out=270k → gain ≈ −27×).  Same behavioral
* state-space approach as 808_kick.spice — G-source second-order system.
*
* FILE NOTE: 808_tom.pedal is internally labelled "808 Mid Tom" but occupies
* the lo-tom slot in the three-voice hierarchy (tom < mid_tom < hi_tom by
* filename). The mid-tom .pedal (808_mid_tom.pedal) uses lower f0 = 125 Hz.
* This discrepancy is a naming inconsistency in the drummerboy codebase;
* this deck follows the filename (808_tom → lo-tom, ~154 Hz).
*
* PARAMETERS (from 808_tom.pedal — pedalkernel-pro, private):
*   R1 = R2 = 220kΩ, C1 = C2 = 4.7nF
*   f0 = 1 / (2π·220k·4.7n) = 153.8 Hz
*   r_crit = R1+R2+R1·(C1/C2) = 220k+220k+220k = 660kΩ
*   R_fb = 750kΩ  →  Q = 750 / (750−660) = 8.33
*   zeta = 1/(2·Q) = 0.0600
*   omega0 = 2π·153.8 = 966.5 rad/s
*   2·zeta·omega0 = 115.98
*
* STATE-SPACE MODEL:
*   dx/dt  = ω₀ · v
*   dv/dt  = −ω₀·x − 2ζω₀·v + ω₀·u(t)
*   y = x
*
* OUTPUT: v_x (resonator position state), normalized.
*   The physical circuit has an inverting buffer (×27) after the resonator,
*   but for WDF-vs-SPICE comparison we compare the resonant waveform shape.
*
* VERIFIED: f0 = 153.8 Hz (theory), Q = 8.33
* ============================================================================

* --- State variable: v_x (position / oscillator voltage) ---
Cx v_x 0 1

* G-source: dv_x/dt = omega0 * v_v
Gx_v 0 v_x v_v 0 966.5

* --- State variable: v_v (velocity, scaled by 1/omega0) ---
Cv v_v 0 1

* G-source: −omega0 * v_x  (restoring force)
Gv_x 0 v_v v_x 0 -966.5

* G-source: −2·zeta·omega0 * v_v  (damping)
Gv_v 0 v_v v_v 0 -115.98

* G-source: omega0 * trigger input
Gv_in 0 v_v v_in 0 966.5

* --- Output mapping ---
Bout v_out 0 V = v(v_x)
Rload_out v_out 0 100k
