* ============================================================================
* 808 Tom (Lo-Tom / "808 Tom") — Bridged-T Resonator (Behavioral State-Space)
* PedalKernel SPICE Golden Reference
*
* TOPOLOGY NOTE: Single bridged-T Sallen-Key resonator + inverting output
* buffer (U2: Ri_out=10k / Rf_out=270k → gain ≈ −27×).  Same behavioral
* state-space approach as 808_kick.spice — G-source second-order system.
*
* FILE NOTE: 808_tom.pedal is internally labelled "808 Mid Tom" but occupies
* the lo-tom slot in the three-voice hierarchy (tom < mid_tom < hi_tom by
* filename). This deck targets the TR-808 service manual lo-tom fundamental.
*
* PARAMETERS (TR-808 service manual — target f0 = 90 Hz):
*   f0 = 90 Hz  (TR-808 service manual lo-tom fundamental)
*   Q = 8.33  (R_fb = 750k, r_crit = 660k → Q = 750/(750-660))
*   zeta = 1/(2·Q) = 0.0600
*   omega0 = 2π·f0 = 2π·90 = 565.49 rad/s
*   2·zeta·omega0 = 67.89
*
* STATE-SPACE MODEL:
*   dx/dt  = ω₀ · v
*   dv/dt  = −ω₀·x − 2ζω₀·v + ω₀·u(t)
*   y = x
*
* OUTPUT: v_x (resonator position state), normalized.
*   The physical circuit has an inverting buffer (×27) after the resonator,
*   but for WDF-vs-SPICE comparison we compare the resonant waveform shape.
*
* VERIFIED: f0 = 90 Hz (TR-808 service manual), Q = 8.33
* ============================================================================

* --- State variable: v_x (position / oscillator voltage) ---
Cx v_x 0 1

* G-source: dv_x/dt = omega0 * v_v
Gx_v 0 v_x v_v 0 565.49

* --- State variable: v_v (velocity, scaled by 1/omega0) ---
Cv v_v 0 1

* G-source: −omega0 * v_x  (restoring force)
Gv_x 0 v_v v_x 0 -565.49

* G-source: −2·zeta·omega0 * v_v  (damping)
Gv_v 0 v_v v_v 0 -67.89

* G-source: omega0 * trigger input
Gv_in 0 v_v v_in 0 565.49

* --- Output mapping ---
Bout v_out 0 V = v(v_x)
Rload_out v_out 0 100k
